US05707985
3-(1-Acetyl-1,2,3,4-tetrahydro-6-quinolinesulfonyl)-3-azabicyclo[3.2.2]nonane
The title compound was synthesized by addition of acetyl chloride to the compound of Example 41. 3-(1,2,3,4-Tetrahydro-6-quinolinesulfonyl)-3-azabicyclo-[3.2.2]nonane (100 mg, 0.31 mmol) was dissolved in dry tetrahydrofuran. The solution was cooled with an ice bath. Potassium tert-butoxide (76 mg, 0.68 mmol) was added, followed by acetyl chloride (0.03 ml, 0.41 mmol). The mixture was allowed to warm slowly to room temperature as it stirred overnight. The solvent was evaporated and the residue extracted with ethyl acetate. The organics were washed with brine, dried over magnesium sulfate and evaporated to give an orange solid. Purification by chromatotron using chloroform/ethyl acetate (9/1) gave a yellow solid (36 mg, 32% yield): mp 177°-179° C.; 1H NMR (CDCl3): 7.56-7.52 (m, 3 H, aryl H's), 3.80 (t, J=6.3, 2 H, alkyl H's), 3.26 (d, J=4.2, 4 H, N(CH2R)2), 2.82, (t, J=6.6, 2 H, alkyl H's), 2.31 (s, 3 H, CH3), 2.10-1.97 (m, 4 H, N(CH2CHR)2 and alkyl H's), 1.78-1.65 (m, 8 H, alkyl H's).

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | 3-(1,2,3,4-Tetrahydro-6-quinolinesulfonyl)-3-azabicyclo-[3.2.2]nonane | 0.31 mmol, 100 mg | N1CCCC2=CC(=CC=C12)S(=O)(=O)N1CC2CCC(C1)CC2 | C17H24N2O2S
reactant | Potassium tert-butoxide | 0.68 mmol, 76 mg | CC(C)([O-])C.[K+]
reactant | acetyl chloride | 0.41 mmol, 0.03 ml | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(1-Acetyl-1,2,3,4-tetrahydro-6-quinolinesulfonyl)-3-azabicyclo[3.2.2]nonane | C(C)(=O)N1CCCC2=CC(=CC=C12)S(=O)(=O)N1CC2CCC(C1)CC2 | C19H26N2O3S
